data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[O:10][CH:20](CCCCCCC(=O)C)[OH2+:21]>>CC[O+:10]=[CH:20]CCCCCCC(=O)C.[OH2:21] 10=20;20,21=21
CC(C)CC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C3CCCCC3)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CC(C)CC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[C:22](=[OH+:23])[CH:21]=[CH2:20].COC(=O)[C:10]1=[C:11](C(CCC1)Br)[OH:12].OS(=O)(=O)[O-]>>C[C:22](=[CH:21][CH2:20][C:10]1(CCCC([C:11]1=[OH+:12])Br)C(=O)OC)[OH:23].OS(=O)(=O)[O-] 10,11=10,20;12=11;22,23=23;20,21=21,22
CC1=CC[C:20]([NH:10]1)(CCC2=CC=CC=C2)[OH:21].CO.N.O>>CC1=CC[C:20](=[NH+:10]1)CCC2=CC=CC=C2.[OH-:21].CO.N.O 10=20;20,21=21
[H:20][NH2+:21]CCC1=CNC2=C1C=CC=C2.CC(C)(C)OC(=O)C(C(=O)CC1=CC=CC=C1)(NCCC2=CNC3=CC=CC=C32)[OH:10]>>[H:20][OH+:10]C(C(=O)CC1=CC=CC=C1)(C(=O)OC(C)(C)C)NCCC2=CNC3=CC=CC=C32.C1=CC2=C(C=C1)NC=C2CC[NH2:21] 10=20;20,21=21
CC1=N[C:11](=[CH:10]C(=N1)O)[OH:12].[N+:20](=O)=[O:21].O.OS(=O)(=O)[O-]>>CC1=N[C:11](=[OH+:12])[CH:10](C(=N1)O)[N+:20](=O)[O-:21].O.OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]1CCCC1(O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CC([O:21]C1)(O)O 10=20;20,21=21
[H:20][O:21]C.C1CCC2(C(C1)CCC[NH2+]2)[O-:10]>>[H:20][O:10]C12CCCCC1CCC[NH2+]2.C[O-:21] 10=20;20,21=21
[H:20][OH2+:21].CNC(=O)N.COC(=O)CC(=O)C1=CC=CC=C1.C1=CC=C(C=C1)C=[O:10]>>[H:20][O+:10]=CC1=CC=CC=C1.CNC(=O)N.COC(=O)CC(=O)C1=CC=CC=C1.[OH2:21] 10=20;20,21=21
CC[NH2:10].CO[C:22](=[O:23])[CH:21]=[CH2:20]>>CC[NH2+:10][CH2:20][CH:21]=[C:22]([O-:23])OC 10=20;22,23=23;20,21=21,22
[H:20][CH2:21]P(=O)(C)C.[Li:11][CH3:10]>>[H:20][CH3:10].[Li+:11].CP(=O)(C)[CH2-:21] 10,11=10,20;20,21=21
CC12CCC(=CC1(C(=[C+:20][CH2:10][Si-:11](C)(C)(C)OS(=O)(=O)C)CC2)C)O>>CC12CCC(=CC1(C(=[C:20]=[CH2:10])CC2)C)O.C[Si:11](C)(C)OS(=O)(=O)C 10,11=10,20
C[SH:10].C[S:20][Cl:21]>>C[SH+:10][S:20]C.[Cl-:21] 10=20;20,21=21
C[C+:20]=O.C1=C[CH:10]=[C:11](C=C1)O>>C[C:20](=O)[CH:10]1C=CC=C[C+:11]1O 10,11=10,20
[H:20][C:21]1(C=CC=C([CH+:22]1)[NH+](C)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[NH+](C)C1=CC=C[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
C[C:10]1([C:20](=[O:21])C2=C(C=CC=C2)C(=O)[C:11]1(O)[O-:12])O>>C[C:10](=[C:20](C1=C(C=CC=C1)C(=O)[C:11](=[O:12])O)[O-:21])O 10,11=10,20;20,21=21;12=11
C[S:20](=[NH2+:21])[O-:10]>>C[S:20](=[O:10])[NH2:21] 10=20;20,21=21
[H:10][C:11]1(CCC(CC1CC(C)C)CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
CC(=O)C[CH:20]=[O:21].C[NH2:10]>>CC(=O)C[CH:20]([NH2+:10]C)[O-:21] 10=20;20,21=21
COC1=C2C3=C(CC4C5(C3(CCN4CC6=CC=CC=C6)[CH:20]([O:21]2)[CH-:10]CC5)O)C=C1.N#N.O.[K+]>>COC1=C(C2=C(CC3C4(C2(CCN3CC5=CC=CC=C5)[CH:20]=[CH:10]CC4)O)C=C1)[O-:21].N#N.O.[K+] 10=20;20,21=21
CC(=O)OCC1C(C(C([CH:20]=[O+:21]1)OC(=[O:10])C)OC(=O)C)OC(=O)C.[B-](OC(=O)C)(F)(F)F.C1=CC=C(C=C1)O>>CC1=[O+:10][CH:20]2C(O1)C(C(C([O:21]2)COC(=O)C)OC(=O)C)OC(=O)C.[B-](OC(=O)C)(F)(F)F.C1=CC=C(C=C1)O 10=20;20,21=21
[H:20][OH+:21]N=C1CC(C2(C1(C3=CCC4CC(CCC4(C3CC2)C)O)C)C)C.C(=O)(C(F)(F)F)[O-:10].CC1CC(=NOC(=O)C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C>>[H:20][O:10]C(=O)C(F)(F)F.CC1CC(=N[OH:21])C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C.CC1CC(=NOC(=O)C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C 10=20;20,21=21
[H:20][Br:21].CC1CCCC([C:11](=[CH:10]1)C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCCC([C+:11]1C)C2=CC=CC=C2)C.[Br-:21] 10,11=10,20;20,21=21
CCN[C:20]1=[N+:21]([C:11]([O:10]1)(CNC(=O)OC(C)(C)C)[O-:12])C>>CCN[C:20](=[O:10])[N:21](C)[C:11](=[O:12])CNC(=O)OC(C)(C)C 10,11=10,20;20,21=21;12=11
CC[OH:10].CC(C)C(CC[C+:20](C)C)Cl>>CC[OH+:10][C:20](C)(C)CCC(C(C)C)Cl 10=20,
[H:20][OH:21].CC(=O)CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)CC(=O)C.[OH-:21] 10=20;20,21=21
[H:20][Br:21].CC#[C-:10]>>[H:20][C:10]#CC.[Br-:21] 10=20;20,21=21
CCCC1=CC=C[N+:21](=C1)[CH:20]2CC(C([O:10]2)COCC(C)C)O>>CCCC1=CC=C[N:21]=C1.CC(C)COCC1C(C[CH:20]=[O+:10]1)O 10=20;20,21=21
[H:20][O+:21](C1CC(C(C=C1)NC(=O)C)NC(=O)OC(C)(C)C)I2(C3=C(C=CC=C3)C(=O)O2)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)NC1C=CC(CC1NC(=O)OC(C)(C)C)[O:21]I2(C3=C(C=CC=C3)C(=O)O2)(OC(=O)C)OC(=O)C 10=20;20,21=21
[H:20][OH+:21]C.CN1C2=C(C=CC=C2)C3=CC(=CC=C31)C=[O:10].OO>>[H:20][O+:10]=CC1=CC=C2C(=C1)C3=C(N2C)C=CC=C3.C[OH:21].OO 10=20;20,21=21
CCOC[C:20](=[O:21])Cl.CC(C)(CNC1=C(C(=NC2=C1C=CC=C2)Cl)[NH2:10])O.CCN(CC)CC>>CCOC[C:20]([NH2+:10]C1=C(C2=C(C=CC=C2)N=C1Cl)NCC(C)(C)O)([O-:21])Cl.CCN(CC)CC 10=20;20,21=21
COC(=O)CCCC#CCC#CCO[P:10](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[Br:11].C(Br)(Br)Br>>COC(=O)CCCC#CCC#CCO[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:11].C(Br)(Br)Br 10,11=11
[H:10][AlH3-:11].C(C[O-])[CH:20]=[O:21]>>[H:10][CH:20](CC[O-])[O-:21].[AlH3:11] 10,11=10,20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C(=C(C(=O)OCC)O)C)C(=O)C(=O)OCC.CC[O-:10]>>[H:20][O:10]CC.CCOC(=O)C(=O)[CH:21]=[C:22](C(=C(C(=O)OCC)O)C)[O-:23] 10=20;22,23=23;20,21=21,22
